US07626042B2
(3) 3,5-Dibromo-2-(morpholinocarbonyl)oxy-N-[2,5-bis(trifluoromethyl)phenyl]-benzamide(Compound No. 130)
Using 3,5-dibromo-2-hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 3,5-dibromo-2-hydroxy-N-[2,5-bis(trifluoromethyl)phenyl]benzamide | BrC=1C(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C1)Br)O | C15H7Br2F6NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 3,5-Dibromo-2-(morpholinocarbonyl)oxy-N-[2,5-bis(trifluoromethyl)phenyl]-benzamide | Yield: 70.6% | BrC=1C(=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C1)Br)OC(=O)N1CCOCC1 | C20H14Br2F6N2O4
